US06608078B2
A mixture of 1-benzyl-3-ethyl-4-hydroxy-3-methylpiperidine (1.1 g, 4.74 mmole) and 20% palladium hydroxide (0.4 g) in methanol (20 ml) was stirred at ambient temperature in hydrogen atmosphere (1 atm.) for 20 hr. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 3-ethyl-4-hydroxy-3-methylpiperidine as oil. Yield 0.6 g (90%), C8H17NO, m/z 144 (M+1), PMR (CDCl3): 0.7-1.06 (6H, m, 2×CH3), 1.24-2.0 (5H, m, CH2, H5, NH & OH, NH & OH D2O exchangeable), 2.3 (1H, m, H5), 2.62-3.18 (2H, m, H2), 3.3-3.8 (3H, m, H4 & H6).

reactant | 1-benzyl-3-ethyl-4-hydroxy-3-methylpiperidine | 4.74 mmole, 1.1 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)(C)CC | C15H23NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.4 g | [OH-].[Pd+2].[OH-]
product | 3-ethyl-4-hydroxy-3-methylpiperidine | C(C)C1(CNCCC1O)C | C8H17NO
